US06881844B2
A solution of triphenylphosphine (628 mg, 2.39 mmol) in methylene chloride (5 mL) cooled to 0° C. was treated with N-bromosuccinimide (425 mg, 2.39 mmol). The reaction was stirred at 0° C. for 15 min and then was treated with 1-isopropyl-6-methyl-1H-indole-3-carboxylic acid (400 mg, 1.84 mmol). The reaction was stirred at 0° C. for 15 min and then was allowed to warm to 25° C. where it was stirred for 30 min. The reaction was then treated with 2-aminothiazole (424 mg, 4.23 mmol) and stirred at 25° C. for 16 h. At this time, the mixture was partitioned between water (75 mL) and ethyl acetate (75 mL) and treated with a 1N aqueous hydrochloric acid solution (40 mL). The organic layer was washed with a saturated aqueous sodium bicarbonate solution (1×40 mL) and a saturated aqueous sodium chloride solution (1×40 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 1/1 hexanes/ethyl acetate) afforded 1-isopropyl-6-methyl-1H-indole-3-carboxylic acid thiazol-2-ylamide (229 mg, 41.5%) as a tan solid: mp 215-217° C.; EI-HRMS m/e calcd for C16H17N3OS (M+) 363.0041, found 363.0034.

reactant | triphenylphosphine | 2.39 mmol, 628 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 2.39 mmol, 425 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1-isopropyl-6-methyl-1H-indole-3-carboxylic acid | 1.84 mmol, 400 mg | C(C)(C)N1C=C(C2=CC=C(C=C12)C)C(=O)O | C13H15NO2
reactant | 2-aminothiazole | 4.23 mmol, 424 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-isopropyl-6-methyl-1H-indole-3-carboxylic acid thiazol-2-ylamide | 229 mg, 41.5% | S1C(=NC=C1)NC(=O)C1=CN(C2=CC(=CC=C12)C)C(C)C | C16H17N3OS
